US04943583
39 g (0.13 mol) of 2-chloro-6-fluoro-N'-(o-chlorophenyl)-benzhydrazide are treated with a solution of 40 g (0.40 mol) of phosgene in 275 ml of toluene and the mixture is heated to reflux temperature (internal temperature 59° C.) for 2.5 hours. A further 13 g (0.13 mol) of phosgene in 70 ml of toluene are added thereto and the reaction mixture is heated to reflux temperature for a further 2.5 hours. The excess phosgene and toluene are distilled off, and the residue is taken up in 500 ml of diethyl ether and the solution is washed with semisaturated sodium chloride solution, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. After recrystallization of the crude product from a mixture of diethyl ether and n-hexane there is obtained pure 5-(2-chloro-6-fluorophenyl)-3-(2-chlorophenyl)-1,3,4-oxadiazol-2(3H)-one, m.p. 92°-95° C.; IR spectrum: 1790 cm-1 ; mass spectrum: 324(12), 280 (10), 125(100).

reactant | 2-chloro-6-fluoro-N'-(o-chlorophenyl)-benzhydrazide | 0.13 mol, 39 g | ClC1=C(C(=O)NNC2=C(C=CC=C2)Cl)C(=CC=C1)F | C13H9Cl2FN2O
reactant | phosgene | 0.40 mol, 40 g | C(=O)(Cl)Cl | CCl2O
reactant | phosgene | 0.13 mol, 13 g | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 275 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(2-chloro-6-fluorophenyl)-3-(2-chlorophenyl)-1,3,4-oxadiazol-2(3H)-one | ClC1=C(C(=CC=C1)F)C1=NN(C(O1)=O)C1=C(C=CC=C1)Cl | C14H7Cl2FN2O2
